US09302988B2
Step 3: 3-(4-Chlorophenyl)-N-methyl-N-neopentyl-5-(trifluoromethyl)-1H-pyrrole-2-carboxamide
N-Methyl neopentyl amine (0.781 g, 5.68 mmol) and 3-(4-chlorophenyl)-5-(trifluoromethyl)-1H-pyrrole-2-carboxylic acid (1.37 g, 4.73 mmol) were combined in DME (13 mL). DIPEA (3.47 mL, 19.87 mmol) and BOP-CI (2.53 g, 9.93 mmol) were added. The mixture was stirred at 60° C. for 1 h. The reaction mixture was diluted with EtOAc (50 mL) and washed with aqueous 1M KHSO4 (3×20 mL), aqueous saturated NaHCO3 (3×20 mL) and brine (2×20 mL) before drying on Na2SO4 and concentration in vacuo to give an oil. The product was dissolved by heating in i-Pr2O and left to cool for 16 h. A solid had formed which was filtered off and washed with i-Pr2O (2×5 mL) to give a light yellow solid. The filtrate was combined with the residue and purified using column chromatography (silica, gradient heptane/EtOAc 95:5−>7:3) to give the desired product (604 mg, 34%) as a yellow solid. The mother liquor was concentrated in vacuo and triturated with heptane to give another batch of the desired product (271 mg, 15%) as a white solid.

reactant | N-Methyl neopentyl amine | 5.68 mmol, 0.781 g | CNCC(C)(C)C | C6H15N
reactant | 3-(4-chlorophenyl)-5-(trifluoromethyl)-1H-pyrrole-2-carboxylic acid | 4.73 mmol, 1.37 g | ClC1=CC=C(C=C1)C1=C(NC(=C1)C(F)(F)F)C(=O)O | C12H7ClF3NO2
reactant | DIPEA | 19.87 mmol, 3.47 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DME | 13 mL | COCCOC | C4H10O2
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | i-Pr2O | O(C(C)C)C(C)C | C6H14O
product | 3-(4-Chlorophenyl)-N-methyl-N-neopentyl-5-(trifluoromethyl)-1H-pyrrole-2-carboxamide | 604 mg, 34% | ClC1=CC=C(C=C1)C1=C(NC(=C1)C(F)(F)F)C(=O)N(CC(C)(C)C)C | C18H20ClF3N2O
